US07737141B2
Synthesis of (3R,5R)-3-acetyl-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylic acid benzyl ester
A solution of dimethylsulfoxide (0.22 mL) in tetrahydrofuran (15 mL) was cooled to −78° C. and then oxalyl chloride (246 μL) was dropwise added thereto. The resultant solution was stirred at the same temperature for 5 minutes, and to the reaction mixture was then dropwise added a solution of (3R,5R)-3-((R)-1-hydroxyethyl)-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylic acid benzyl ester (880 mg) in tetrahydrofuran (5 mL). The resultant solution was stirred at the same temperature for 1 hour, and triethylamine (1.54 mL) was then added thereto. The temperature of this solution was returned to room temperature. The solution was then stirred for 1 hour. The reaction solution was diluted with aqueous ammonium chloride and ethyl acetate, and the organic layer was partitioned. The organic layer was dried over anhydrous magnesium sulfate. Solvent was removed by distillation under reduced pressure. The resultant product was purified by silica gel column chromatography (heptane/ethyl acetate), to thereby obtain the titled compound (800 mg). The physical properties of this crude product were as follows.

reactant | dimethylsulfoxide | 0.22 mL | CS(=O)C | C2H6OS
reactant | oxalyl chloride | 246 μL | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (3R,5R)-3-((R)-1-hydroxyethyl)-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylic acid benzyl ester | 880 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](COC[C@H]1C1=CC(=C(C(=C1)F)F)F)[C@@H](C)O | C20H20F3NO4
reactant | triethylamine | 1.54 mL | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 15 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | ammonium chloride | [Cl-].[NH4+]
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | (3R,5R)-3-acetyl-5-(3,4,5-trifluorophenyl)morpholine-4-carboxylic acid benzyl ester | 800 mg | C(C1=CC=CC=C1)OC(=O)N1[C@H](COC[C@H]1C1=CC(=C(C(=C1)F)F)F)C(C)=O | C20H18F3NO4
